US06867198B2
3-(1H-indol-3-yl)-4-(4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrole-2,5-dione
Beginning with (4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester and (1H-indol-3-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2C(CCC3=CC=CC1=C23)CO)=O | C15H15NO4
reactant | (1H-indol-3-yl)acetamide | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
product | 3-(1H-indol-3-yl)-4-(4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrole-2,5-dione | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN2C(CCC3=CC=CC1=C23)CO)=O)=O | C24H19N3O3
